US03959322
Reflux a suspension of 5.0 g. of dl-13-ethyl-3-methoxygona-1,3,5(10)-triene-17β-ol, 100 mg. of xylene, and 3.9 g. of sodium hydride (50% in mineral oil) for 1.5 hours. Add 14.5 ml. of allyl bromide and reflux for 22 hours. Make the reaction mixture acidic with dilute hydrochloric acid and extract the organic layer with sodium bicarbonate solution. Chromatograph the residue on alumina (Grade I neutral) in hexane and eluate the product with ether to obtain dl-17β-allyloxy-13-ethyl-3-methoxygona-1,3,5(10)-triene.

reactant | 13-ethyl-3-methoxygona-1,3,5(10)-triene-17β-ol | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1CC2)OC)O | C20H28O2
reactant | sodium hydride | [H-].[Na+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 17β-allyloxy-13-ethyl-3-methoxygona-1,3,5(10)-triene | C(C)(=C)OC1CC[C@H]2[C@H]3[C@H](CC[C@]12CC)C=1C=CC(=CC1CC3)OC | C23H32O2
